US09126981B2
Synthesis of Ethyl 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)-2-methylpropanoate (Compound V-1)
To a solution of ethyl 2-(1-allylhydrazinyl)-2-methylpropanoate (Compound XIV-1) (4.33 g, 23.25 mmol) in THF was added benzyl isocyanate (2.87 ml, 23.25 mmol) and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (100 ml) and the mixture was washed with water (100 ml) and brine (100 ml). Then the organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The crude residue was subjected to silica gel column chromatography (eluent: n-hexane:ethylacetate=1:1 to 1:2) to obtain the title compound (2.55 g, 35%).

reactant | ethyl 2-(1-allylhydrazinyl)-2-methylpropanoate | 23.25 mmol, 4.33 g | C(C=C)N(N)C(C(=O)OCC)(C)C | C9H18N2O2
reactant | benzyl isocyanate | 23.25 mmol, 2.87 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)-2-methylpropanoate | 2.55 g, 35% | C(C=C)N(NC(NCC1=CC=CC=C1)=O)C(C(=O)OCC)(C)C | C17H25N3O3
